US07622583B2
To a stirred solution of 1-iodo-2-nitro-benzene (769 mg, 3.08 mmol) in anhydrous THF (3 mL) was added 2 M phenylmagnesiumchloride in THF (1.62 mL, 3.24 mmol) at −40° C. under an atmosphere of nitrogen. It was stirred at the same temperature for 15 minutes and then 4-chloro-N-(5-chloro-2-formyl-pyridin-3-yl)-N-methoxymethyl-3-trifluoromethyl-benzenesulfonamide (1.04 g, 2.36 mmol) was added in one portion and the progress of the reaction was followed by LCMS. The reaction mixture was warmed to room temperature and stirred for 3 h. It was then quenched with saturated aqueous NH4Cl (2 mL), and extracted with EtOAc. The combined extracts were dried (Na2SO4), filtered and concentrated under reduced pressure to provide crude 4-chloro-N-{5-chloro-2-[hydroxy-(2-nitro-phenyl)-methyl]-pyridin-3-yl}-N-methoxymethyl-3-trifluoromethyl-benzenesulfonamide, which was used in the following step without any purification. Mass spectrum m/z: 566.3 (M+H).

reactant | 1-iodo-2-nitro-benzene | 3.08 mmol, 769 mg | IC1=C(C=CC=C1)[N+](=O)[O-] | C6H4INO2
reactant | phenylmagnesiumchloride | 2 M | C1(=CC=CC=C1)[Mg]Cl
reactant | 4-chloro-N-(5-chloro-2-formyl-pyridin-3-yl)-N-methoxymethyl-3-trifluoromethyl-benzenesulfonamide | 2.36 mmol, 1.04 g | ClC1=C(C=C(C=C1)S(=O)(=O)N(COC)C=1C(=NC=C(C1)Cl)C=O)C(F)(F)F | C15H11Cl2F3N2O4S
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | THF | 3.24 mmol, 1.62 mL | C1CCOC1 | C4H8O
product | 4-chloro-N-{5-chloro-2-[hydroxy-(2-nitro-phenyl)-methyl]-pyridin-3-yl}-N-methoxymethyl-3-trifluoromethyl-benzenesulfonamide | ClC1=C(C=C(C=C1)S(=O)(=O)N(COC)C=1C(=NC=C(C1)Cl)C(C1=C(C=CC=C1)[N+](=O)[O-])O)C(F)(F)F | C21H16Cl2F3N3O6S
